US07820837B2
2-[(3-phenoxybenzyl)thio]-5,6-dihydro-1,3-benzothiazol-7(4H)-one
A mixture of 3-phenoxybenzyl chloride (2.84 g, 13.0 mmol), thiourea (1.22 g, 16 mmol) and ethanol (30 mL) was heated under reflux for 1 hr. 1 M aqueous sodium hydroxide solution (20 mL) was added to the reaction mixture and the mixture was further heated under reflux for 1 hr. The reaction mixture was cooled, and 2-chloro-5,6-dihydro-1,3-benzothiazol-7(4H)-one (1.55 g, 7.99 mmol) was added, and the mixture was stirred at room temperature for 3 hr. The reaction mixture was neutralized with 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (AcOEt:hexane=1:19-1:1) to give the title compound (2.67 g, yield 91%) as a pale-yellow oil.

reactant | 3-phenoxybenzyl chloride | 13.0 mmol, 2.84 g | O(C1=CC=CC=C1)C=1C=C(CCl)C=CC1 | C13H11ClO
reactant | thiourea | 16 mmol, 1.22 g | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 1 M, 20 mL | [OH-].[Na+]
reactant | 2-chloro-5,6-dihydro-1,3-benzothiazol-7(4H)-one | 7.99 mmol, 1.55 g | ClC=1SC2=C(N1)CCCC2=O | C7H6ClNOS
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-[(3-phenoxybenzyl)thio]-5,6-dihydro-1,3-benzothiazol-7(4H)-one | 2.67 g, yield 91% | O(C1=CC=CC=C1)C=1C=C(CSC=2SC3=C(N2)CCCC3=O)C=CC1 | C20H17NO2S2
